US07834039B2
A two-neck round bottom flask was charged with methyl 2-(bis(2,2,2-trifluoroethoxy)phosphoryl)acetate (0.235 ml, 1.109 mmol), 18-crown-6 (1465 mg, 5.54 mmol) and THF (15 ml). The mixture was then cooled to −78° C. under an atmosphere of nitrogen. Potassium bis(trimethylsilyl)amide (221 mg, 1.109 mmol) was added and the mixture stirred for a few minutes. 4-(3-(3-chloro-4-isopropoxyphenyl)-1,2,4-oxadiazol-5-yl)benzaldehyde (380 mg, 1.109 mmol) was added and the mixture stirred at −78° C. for 90 minutes and then left to warm to room temperature overnight. Reaction was quenched by the addition of saturated NH4Cl (aqueous). The mixture was separated and the aqueous layer was extracted with ether (3×10 mL). The combined organics were dried over MgSO4 and concentrated to give an off-white solid. The solid was triturated with MeOH and collected by vacuum filtration and washed with MeOH (3×10 mL). Collected solid was dried overnight in a vacuum oven to give (Z)-methyl 3-(4-(3-(3-chloro-4-isopropoxyphenyl)-1,2,4-oxadiazol-5-yl)phenyl)acrylate (325 mg, 73.5%).

reactant | methyl 2-(bis(2,2,2-trifluoroethoxy)phosphoryl)acetate | 1.109 mmol, 0.235 ml | FC(COP(=O)(OCC(F)(F)F)CC(=O)OC)(F)F | C7H9F6O5P
reactant | 18-crown-6 | 5.54 mmol, 1465 mg | C1COCCOCCOCCOCCOCCO1 | C12H24O6
reactant | Potassium bis(trimethylsilyl)amide | 1.109 mmol, 221 mg | C[Si](C)(C)[N-][Si](C)(C)C.[K+]
reactant | 4-(3-(3-chloro-4-isopropoxyphenyl)-1,2,4-oxadiazol-5-yl)benzaldehyde | 1.109 mmol, 380 mg | ClC=1C=C(C=CC1OC(C)C)C1=NOC(=N1)C1=CC=C(C=O)C=C1 | C18H15ClN2O3
solvent | THF | 15 ml | C1CCOC1 | C4H8O
product | (Z)-methyl 3-(4-(3-(3-chloro-4-isopropoxyphenyl)-1,2,4-oxadiazol-5-yl)phenyl)acrylate | 325 mg, 73.5% | ClC=1C=C(C=CC1OC(C)C)C1=NOC(=N1)C1=CC=C(C=C1)\C=C/C(=O)OC | C21H19ClN2O4
